US04798897
In 20 ml of methanol was dissolved 1.0 g of 1-(5-isoquinolinesulfonyl)-3-aminopiperidine. To the solution was added 1N hydrochloric acid so that the pH of the solution became 6.0. Then, the solvent was removed under reduced pressure to obtain a residue. The residue thus obtained was subjected to recrystallization using methanol to obtain 0.81 g of 1-(5-isoquinolinesulfonyl)-3-aminopiperidine hydrochloride.

reactant | 1-(5-isoquinolinesulfonyl)-3-aminopiperidine | 1.0 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)N1CC(CCC1)N | C14H17N3O2S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 1-(5-isoquinolinesulfonyl)-3-aminopiperidine hydrochloride | 0.81 g | Cl.C1=NC=CC=2C(=CC=CC12)S(=O)(=O)N1CC(CCC1)N | InChI=1S/C14H17N3O2S.ClH/c15-12-4-2-8-17(10-12)20(18,19)14-5-1-3-11-9-16-7-6-13(11)14;/h1,3,5-7,9,12H,2,4,8,10,15H2;1H
